US05276025
Step E: Preparation of 7-sulfamoyl-3,4-dihydrothieno[3,2-f]-1,4-thiazepin-5(2H)-one
To a round bottomed flask were added ethanol (200 mL) followed by solid sodium (1.0 g, 43.5 mmole). After the sodium dissolved, 2-aminoethanethiol was added (1.57 g, 20.4 mmole). The reaction was stirred for approximately 5.0 minutes and 5-chloro-4-carboethoxythiophene-2-sulfonamide (5.0 g, 18.5 mmole) was added. The reaction was heated at reflux for 24 hrs. The cooled reaction mixture was acidified (6.0N HCl) and the solvent was removed under vacuum. The residue was triturated with water and the resulting solid collected: 4.77 g (98%) mp>270° C.

reactant | sodium | 43.5 mmole, 1.0 g | [Na] | Na
reactant | 2-aminoethanethiol | NCCS | C2H7NS
reactant | 5-chloro-4-carboethoxythiophene-2-sulfonamide | 18.5 mmole, 5.0 g | ClC1=C(C=C(S1)S(=O)(=O)N)C(=O)OCC | C7H8ClNO4S2
reactant | HCl | 6.0N | Cl | ClH
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | 7-sulfamoyl-3,4-dihydrothieno[3,2-f]-1,4-thiazepin-5(2H)-one | S(N)(=O)(=O)C1=CC=2C(NCCSC2S1)=O | C7H8N2O3S3
